US08497360B2
(S)-1-(2-Nitrophenyl)-2-methyl-propyl (1S)-camphanate (0.717 g, 1.90 mmol) was dissolved in hot methanol (40 mL) and K2CO3 (0.380 g, 2.74 mmol) was added. The mixture was heated to reflux for one hour, then cooled down, concentrated in vacuo, and diluted with diethyl ether (100 mL). The organic phase was washed with water (20 mL), dried over anhydrous Na2SO4, and purified by silica gel column chromatography to yield (S)-1-(2-nitrophenyl)-2-methyl-propanol (0.360 g, 97%) as a light yellow oil. 1H NMR was identical to that of the racemic alcohol.

reactant | (S)-1-(2-Nitrophenyl)-2-methyl-propyl (1S)-camphanate | 1.90 mmol, 0.717 g | [C@]12(C(CC(CC1)C2(C)C)C(=O)O[C@@H](C(C)C)C2=C(C=CC=C2)[N+](=O)[O-])C | C21H29NO4
reactant | K2CO3 | 2.74 mmol, 0.380 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 40 mL | CO | CH4O
product | (S)-1-(2-nitrophenyl)-2-methyl-propanol | 0.360 g, 97% | [N+](=O)([O-])C1=C(C=CC=C1)[C@H](C(C)C)O | C10H13NO3
